US09233104B2
To a solution of 3-chloro-2-nitroaniline (CXXI) (2.00 g, 11.6 mmol, 1 eq) and piperidine (2.95 g, 34.7 mmol, 3 eq) in DMF (60 ml) was added K2CO3 (4.78 g, 34.4 mmol, 3 eq) in one portion and the mixture was stirred at 120° C. under nitrogen overnight. The reaction mixture was diluted with ethyl acetate (60 ml) and washed with saturated NaHCO3 solution (50 mL). The organic phases were dried over Na2SO4 and concentrated in vacuo, the resultant residue was purified by silica gel column chromatography (PE:EtOAc=5:1→1:1) to give 2-nitro-3-(piperidin-1-yl)aniline (CXXII) (1.8 g, 8.14 mmol, 70.3% yield) as a black solid. ESIMS found for C11H15N3O2 m/z 222 (M+H).

reactant | 3-chloro-2-nitroaniline | 11.6 mmol, 2.00 g, 1 eq | ClC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | piperidine | 34.7 mmol, 2.95 g, 3 eq | N1CCCCC1 | C5H11N
reactant | K2CO3 | 34.4 mmol, 4.78 g, 3 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 2-nitro-3-(piperidin-1-yl)aniline | 8.14 mmol, 1.8 g, 70.3% yield | [N+](=O)([O-])C1=C(N)C=CC=C1N1CCCCC1 | C11H15N3O2
